US05399580
(1R,2S,3R,5R)-3-(Acetoxymethyl)-5-(4,5-dichloro-2-nitroanilino)-1,2-cyclopentanediyl diacetate (1.29 g, 2.78 mmol) in n-propanol (100 mL) was shaken with Raney nickel (Aldrich, slurry in water, 200 mg wet) under hydrogen (40 psi) on a Parr shaker for 4 hours. Catalyst was filtered off with Celite and the volatiles were evaporated in vacuo. The residual oil was refluxed in 96% formic acid (45 mL) for 5 hours. Concentrated hydrochloric acid (5 mL) was added and reflux continued for an additional 4 hours. Volatiles were evaporated in vacuo and the residue was dissolved in 1N sodium hydroxide (10 mL). The solution was stirred at ambient temperature for 18 hours, neutralized with acetic acid, and concentrated in vacuo. The residue was chromatographed on silica gel. Elution with 15% methanol-chloroform gave (1R,2S,3R,5R)-5-(5,6-dichloro-2-methyl-1H-benzimidazol-1-yl)-3-(hydroxymethyl)-1,2-cyclopentanediol as white powder (236 mg, 26%), m.p. 198°-200° C.; 1H-NMR(DMSO-d6) δ: 8.30 and 7.72 (both s, 1 each, 2 aromatic CH), 5.0-4.8 (m, 3,2 OH and NCH), 4.56 (t, J=5.1 Hz, 1, CH2OH), 4.2-4.1 (m, 2,2 OCH), 3.8-3.5 (m, 2, CH2O), 2.58 (s, 3, CH3), 2.4-2.2 (m, 1, CH), 2.2-1.9 (m, 2, CH2); mass spectrum(CI): 331(M+1); [α]20589 -13.5°, [α]20578 -13.9°, [α]20546 -15.9°, [α]20436 -30.3° (c=0.251, methanol).

reactant | (1R,2S,3R,5R)-3-(Acetoxymethyl)-5-(4,5-dichloro-2-nitroanilino)-1,2-cyclopentanediyl diacetate | 2.78 mmol, 1.29 g | C(C)(=O)O[C@H]1[C@H]([C@H](C[C@H]1NC1=C(C=C(C(=C1)Cl)Cl)[N+](=O)[O-])COC(C)=O)OC(C)=O | C18H20Cl2N2O8
reactant | n-propanol | 100 mL | C(CC)O | C3H8O
catalyst | Raney nickel | 200 mg | [Ni] | Ni
product | (1R,2S,3R,5R)-5-(5,6-dichloro-2-methyl-1H-benzimidazol-1-yl)-3-(hydroxymethyl)-1,2-cyclopentanediol | 236 mg, 26% | ClC1=CC2=C(N(C(=N2)C)[C@@H]2C[C@@H]([C@@H]([C@@H]2O)O)CO)C=C1Cl | C14H16Cl2N2O3
